US05057549
About 84 g of allyl but-2-enyl ether are heated under reflux (about 120° C.) in a three-necked flask fitted with a reflux condenser, stirrer and dropping funnel. To this are added dropwise over a period of two hours a solution containing 82 g of triethoxysilane, in which 2 mg of platinum, calculated as the element, are dissolved in the form of a solution of platinum tetrachloride in 1-octene. After heating for an additional five hours under reflux, more than 99 percent of the Si-bonded hydrogen atoms have been converted. The intermediate obtained in this manner, (but-2-enyloxypropyl)triethoxysilane, is purified by distillation at C and at 7 hPa (abs.) and contains 5 percent by weight, based on the total weight of the intermediate, of (but-1-enyloxypropyl)triethoxysilane.

reactant | allyl but-2-enyl ether | 84 g | C(C=CC)OCC=C | C7H12O
reactant | triethoxysilane | 82 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
solvent | platinum tetrachloride | [Pt](Cl)(Cl)(Cl)Cl
solvent | 1-octene | C=CCCCCCC | C8H16
catalyst | platinum | 2 mg | [Pt] | Pt
product | (but-2-enyloxypropyl)triethoxysilane | C(C=CC)OCCC[Si](OCC)(OCC)OCC | C13H28O4Si
